US07157491B2
7-(4-Hydroxyphenyl)-1-benzothiophene-4-carbaldehyde
To a 50 ml round bottom flask was added 7-(4-methoxyphenyl)-1-benzothiophene-4-carbaldehyde (420 mg, 1.57 mmol) to CH2Cl2 (8.5 ml) and the solution was cooled to −78° C. To the solution was added BBr3 (3.14 ml of 1.0 M in CH2Cl2, 3.13 mmol) dropwise as the reaction turned dark red in color. The reaction was warmed to ambient temperature as it turned dark green and was complete in 1 h by TLC. After the reaction was quenched with water (15 ml) it was extracted with ether and the organic were combined, dried over anhydrous Na2SO4 and concentrated to 460 mg (>95%) product as a slightly impure green solid. Reverse phase HPLC (CH3CN/water with 0.1% TFA) was used to obtain an analytical sample (120 mg) as a slightly yellow solid: mp 202–204° C.; 1H NMR (300 MHz, DMSO-d6): δ 6.97 (2H, d, J=8.5 Hz), 7.60 (1H, d, J=7.6), 7.64 (2H, d, J=8.5 Hz), 8.10 (1H, d, J=7.6 Hz), 8.14 (1H, d, J=5.6 Hz), 8.38 (1H, d, J=5.6 Hz), 9.92 (1H, s), 10.29 (1H, s); MS (ESI) m/z 253 ([M−H]).

reactant | 7-(4-methoxyphenyl)-1-benzothiophene-4-carbaldehyde | 1.57 mmol, 420 mg | COC1=CC=C(C=C1)C=1C=CC(=C2C=CSC21)C=O | C16H12O2S
reactant | BBr3 | 3.13 mmol, 1.0 M, 3.14 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 8.5 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-Hydroxyphenyl)-1-benzothiophene-4-carbaldehyde | OC1=CC=C(C=C1)C=1C=CC(=C2C=CSC21)C=O | C15H10O2S
